US05945426
4-(4-Fluorophenyl)-6-hydroxy-2-methylpyrimidine
A mixture of 145 g of ethyl 3-(4-fluorophenyl)-3-oxopropionate, 97.8 g of acetamidine hydrochloride, 191 g of powdered potassium carbonate, and 1.16 L of ethanol was stirred at 60-70° C. for 16 hours. This reaction mixture was filtered to remove insolubles and the filtrate was concentrated. To the residue was added water and the resultant was neutralized with acetic acid. The crystals that separated out were collected by filtration, washed with water, and dried to provide 88.7 g of the title compound as white crystals. m.p. 290-292° C. (decomp.)

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 145 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | acetamidine hydrochloride | 97.8 g | Cl.C(C)(=N)N
reactant | potassium carbonate | 191 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1.16 L | C(C)O | C2H6O
product | 4-(4-Fluorophenyl)-6-hydroxy-2-methylpyrimidine | 88.7 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1)O)C | C11H9FN2O
